US09340537B2
Stage 97.2 Benzyl (2,4-dihydroxybutyl)carbamate
1 M BH3.THF complex (80 mL, 80 mmol) was added dropwise over 30 min to a solution of 4-(((benzyloxy)carbonyl)amino)-3-hydroxybutanoic acid (prepared as described in Tetrahedron (1994), 50(47), 13347-68, 13.5 g, 53.3 mmol) in THF (53 mL) at 0° C. and the RM was stirred at RT overnight. 10% acetic acid in MeOH (250 mL) was added and the mixture was stirred at RT overnight. The solvent was evaporated off under reduced pressure and the residue was dissolved in EtOAc, washed with aq. sat. NaHCO3 solution and brine, dried over Na2SO4 and the solvent was evaporated off under reduced pressure to give a residue was treated with iPr2O, filtered and dried to afford the title compound as a white solid. UPLC-MS (Condition 8) tR=0.61 min, m/z=240 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29-1.45 (m, 1H) 1.48-1.61 (m, 1H) 2.98 (t, J=5.56 Hz, 2H) 3.49 (dt, J=11.62, 5.56 Hz, 2H) 3.54-3.65 (m, 1H) 4.35 (t, J=5.01 Hz, 1H) 4.58 (d, J=5.26 Hz, 1H) 5.02 (s, 2H) 7.16 (t, J=5.62 Hz, 1H) 7.26-7.44 (m, 5H).

reactant | 4-(((benzyloxy)carbonyl)amino)-3-hydroxybutanoic acid | 53.3 mmol, 13.5 g | C(C1=CC=CC=C1)OC(=O)NCC(CC(=O)O)O | C12H15NO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | iPr2O | O(C(C)C)C(C)C | C6H14O
solvent | THF | 53 mL | C1CCOC1 | C4H8O
solvent | MeOH | 250 mL | CO | CH4O
product | Benzyl (2,4-dihydroxybutyl)carbamate | OC(CNC(OCC1=CC=CC=C1)=O)CCO | C12H17NO4
